US05093518
0.15 g of paramethoxyphenol;
In this way a milky suspension is obtained which is washed twice with 136 g of dichloromethane, then the chloromethylenic phases are reunited, dried over anhydrous magnesium sulphate and finally concentrated under vacuum. In this way 7.5 g of a yellow oil is isolated which is purified by preparative chromatography on a column (500×25) filled with silica of a size grading of 10 micrometers, eluting with a hexane-ethyl acetate mixture 8/2 by volume, which allows the isolation on the one hand of, 5 g (20.4 mmoles) of 1-methacryloyloxy-3-methoxyiminoacetoxy-2-propanol, and on the other hand of, 2 g (8.15 mmoles) of 3-methacryloyloxy-2-methoxyiminoacetoxy-1-propanol characterised by their NMR1H spectra registered in deuterized chloroform.

reactant | 1-methacryloyloxy-3-methoxyiminoacetoxy-2-propanol | 20.4 mmoles, 5 g | C(C(=C)C)(=O)OCC(COC(C=NOC)=O)O | C10H15NO6
reactant | 3-methacryloyloxy-2-methoxyiminoacetoxy-1-propanol | 8.15 mmoles, 2 g | C(C(=C)C)(=O)OCCC(O)OC(C=NOC)=O | C10H15NO6
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | paramethoxyphenol | COC1=CC=C(C=C1)O | C7H8O2
